US06831080B2
Step C: (±)-6-(1-Aminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
A solution of 6-(1-hydroxyimino-ethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.0 g, 3.44 mmol), dissolved in MeOH (50 mL), was hydrogenated under a pressure of 40 psi in the presence of 50% RaNi/H2O (3 mL) for 5 hours. The catalyst was filtered off and the solvent evaporated. The crude amine was purified by chromatography (SiO2, 15% of 2.0M NH3/MeOH in CH3CN) to give 0.57 g (60%) of the title compound as a white solid. m.p: 73-75° C.

reactant | 6-(1-hydroxyimino-ethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 3.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)C(C)=NO | C16H22N2O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | RaNi H2O | 3 mL | [Ni].O
product | (±)-6-(1-Aminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.57 g, 60% | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)C(C)N | C16H24N2O2
